US06169101A
“Butyl lithium (13.6 ml of a 2.5M solution in hexane) was added to a solution of 2-bromo-6-tert-butylpyridine (4.0 g) in THF (100 ml) at −90° C. This was stirred for 30 minutes then DMF (3 ml) in THF (15 ml) was added quickly. The reaction was allowed to reach room temperature then quenched with a saturated solution of ammonium chloride and extracted with ether. The combined organic extract was washed with brine, dried and concentrated to give 2-tert-butoxy-6-pyridine carboxaldehyde (2.8 g, 93% yield ) as a brown liquid; 1H NMR (270 MHz): δ 1.65(9H,s), 6.89(1H,s), 7.51(1H,d), 7.68(1H,t), 9.92(1H,s) ppm.

reactant | Butyl lithium | C(CCC)[Li]
reactant | 2-bromo-6-tert-butylpyridine | 4.0 g | BrC1=NC(=CC=C1)C(C)(C)C | C9H12BrN
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-tert-butoxy-6-pyridine carboxaldehyde | 2.8 g, 93% yield | C(C)(C)(C)OC1=NC(=CC=C1)C=O | C10H13NO2
